US06667316B1
A mixture of N-{2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide (1.28g, 2.74 mmol), pyridinium chlorochromate (1.18 g, 5.48 mmol) and celite (0.6 g) in methylene chloride (35 mL) was stirred at room temperature for 5 hours. The mixture was filtered through celite and the filtrate was washed with water (30 mL), brine (30 mL) and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (Silica gel, methylene chloride:ethyl acetate 9:1) to give N-{2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-1,3-di-oxoisoindolin-4-yl}acetamide (1.09 g, 85%) as a white solide: mp 145-147° C.; 1H NMR (CDCl3) δ9.53 (s, 1H), 8.70 (d, J=8.4 Hz, 1H), 7.62 (t, J=7.6 Hz, 1H), 7.46 (d, J=7.3 Hz, 1H), 7.07-7.01 (m, 2H), 6.81 (d, J=8.2 Hz, 1H), 5.73-5.67 (dd, J=5.1, 9.8 Hz, 1H), 4.77 (m, 1H), 4.04-3.93 (dd, J=10.0, 18.1 Hz, 1H), 3.80 (s, 3H), 3.28-3.19 (dd, J=5.1, 18.0 Hz, 1H), 2.26 (s, 3H), 2.18 (s, 3H), 1.97-1.61 (m, 8H); 13C NMR (CDCl3) δ205.22, 170.03, 169.15, 167.82, 149.83, 147.70, 137.33, 135.77, 131.23, 124.63, 119.88, 117.87, 115.28, 114.57, 111.72, 80.46, 55.99, 49.94, 44.82, 32.75, 30.14, 24.92, 24.05; Anal. Calcd. for C26H28N2O6; C, 67.23; H, 6.08; N, 6.03. Found: C, 66.96; H, 6.06; N, 5.89.

reactant | N-{2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-hydroxybutyl]-1,3-dioxoisoindolin-4-yl}acetamide | 2.74 mmol, 1.28g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C26H30N2O6
reactant | pyridinium chlorochromate | 5.48 mmol, 1.18 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[1-(3-cyclopentyloxy-4-methoxyphenyl)-3-oxobutyl]-1,3-di-oxoisoindolin-4-yl}acetamide | 1.09 g, 85% | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(C)=O)N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O | C26H28N2O6
